US07585885B2
5-(Difluorophenyl-methyl)-N-methyl-N-propyl-isophthalamic acid
Chill a solution of 5-(difluorophenyl-methyl)-N-methyl-N-propyl-isophthalamic acid methyl ester (0.043 g, 0.119 mmol) in THF (1 mL) in an ice bath. Add 1 N lithium hydroxide (0.18 mL, 0.18 mmol) and stir at room temperature for 3 h. Acidify the solution to about pH=2 and concentrate to one half of the solvent. Partition the residue between ethyl acetate and H2O. Extract the aqueous layer with ethyl acetate (2×10 mL). Wash the combined organic extract with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (95%).

reactant | 5-(difluorophenyl-methyl)-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.119 mmol, 0.043 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C1=CC=CC=C1)(F)F)=O | C20H21F2NO3
reactant | lithium hydroxide | 0.18 mmol, 1 N, 0.18 mL | [OH-].[Li+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-(Difluorophenyl-methyl)-N-methyl-N-propyl-isophthalamic acid | 95% | FC(C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C)(C1=CC=CC=C1)F | C19H19F2NO3
